US04182757
2.1 g of 1-(2-chloroethyl)-3-methyl-3-(2,3-dihydroxy-n-propyl)urea are dissolved in 10 ml of acetic acid, and 1.4 g of sodium nitrite are added thereto under stirring. The mixture is stirred at room temperature for 2 hours. Then, 2 ml of concentrated hydrochloric acid and one g of sodium nitrite are added to the mixture, and said mixture is further stirred at the same temperature for 2 hours. After the reaction, the mixture is treated in the same manner as described in Example 60-(2) (Solvent used for chromatography: chloroform-ethyl acetate-methanol(3:1:1)). 1.5 g of 1-(2-chloroethyl)-1-nitroso-3-methyl-3-(2,3-dihydroxy-n-propyl)urea are thereby obtained as a pale yellow oil.

reactant | 1-(2-chloroethyl)-3-methyl-3-(2,3-dihydroxy-n-propyl)urea | 2.1 g | ClCCNC(=O)N(CC(CO)O)C | C7H15ClN2O3
reactant | sodium nitrite | 1.4 g | N(=O)[O-].[Na+]
reactant | hydrochloric acid | 2 ml | Cl | ClH
reactant | chloroform ethyl acetate methanol | C(Cl)(Cl)Cl.C(C)(=O)OCC.CO
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 1-(2-chloroethyl)-1-nitroso-3-methyl-3-(2,3-dihydroxy-n-propyl)urea | 1.5 g | ClCCN(C(=O)N(CC(CO)O)C)N=O | C7H14ClN3O4
